US07897597B2
Methyl isocyanate (322.9 mg, 5.66 mmol, 1.1 eq) was added to a solution of tert-butyl 2-(4-amino-2-aminomethyl-7-benzyloxy-1H-imidazo[4,5-c]quinolin-1-yl)ethylcarbamate (2.38 g, 5.14 mmol, 1 eq) in DMF and stirred at ambient temperature for 2 days. The crude reaction mixture was concentrated under reduced pressure and purified by flash column chromatography (on silica gel, 0-6% methanol in dichloromethane) and concentrated under reduced pressure to yield 2.73 g of tert-butyl 2-{4-amino-7-benzyloxy-2-[(3-methylureido)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}ethylcarbamate.

reactant | Methyl isocyanate | 5.66 mmol, 322.9 mg, 1.1 eq | CN=C=O | C2H3NO
reactant | tert-butyl 2-(4-amino-2-aminomethyl-7-benzyloxy-1H-imidazo[4,5-c]quinolin-1-yl)ethylcarbamate | 5.14 mmol, 2.38 g, 1 eq | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(OC(C)(C)C)=O)CN)OCC2=CC=CC=C2 | C25H30N6O3
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 2-{4-amino-7-benzyloxy-2-[(3-methylureido)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}ethylcarbamate | 2.73 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(OC(C)(C)C)=O)CNC(=O)NC)OCC2=CC=CC=C2 | C27H33N7O4
